US07851626B2
A solution of 4-chloro-2-ethoxy-5-methanesulfonylbenzoic acid (2.5 g, 9.0 mmol) in tetrahydrofuran was cooled to 5° C. and treated with excess diazomethane in ether solution (prepared from N-methyl-N-nitroso-p-toluenesulfonamide, Aldrich) and stirred for 10 min. Solvent and excess diazomethane was removed by rotary evaporation. The resulting residue was dissolved in dichloromethane and filtered through a plug of silica gel and evaporated. The solids were triturated with ether/hexane to give 4-chloro-2-ethoxy-5-methanesulfonyl-benzoic acid methyl ester (2.1 g, colorless solids).

reactant | 4-chloro-2-ethoxy-5-methanesulfonylbenzoic acid | 9.0 mmol, 2.5 g | ClC1=CC(=C(C(=O)O)C=C1S(=O)(=O)C)OCC | C10H11ClO5S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-chloro-2-ethoxy-5-methanesulfonyl-benzoic acid methyl ester | 2.1 g | COC(C1=C(C=C(C(=C1)S(=O)(=O)C)Cl)OCC)=O | C11H13ClO5S
